US06545009B1
In the same manner as in Example 28, methyl 4-thiocarbamoylbenzoate was reacted with 3-chlorophenacyl bromide to obtain methyl 4-[4-(3-chlorophenyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 72%. Pale yellow prisms. Melting point: 150 to 151° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 3-chlorophenacyl bromide | ClC=1C=C(C(CBr)=O)C=CC1 | C8H6BrClO
product | methyl 4-[4-(3-chlorophenyl)-2-thiazolyl]benzoate | Yield: 72% | ClC=1C=C(C=CC1)C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1 | C17H12ClNO2S
